US04906643
To a stirred solution of 1.43 parts of 3-pyridinol in 135 parts of N,N-dimethylformamide were added 0.77 parts of a sodium hydride solution 50% at a temperature below 30° C. The whole was stirred first for 1.5 hours at room temperature and then for 10 minutes at 60° C. After cooling with ice water, a solution of 5.64 parts of cis-4-amino-5-chloro-N-[1-(2-chloro-ethyl)-3-methoxy-4-piperidinyl]-2-methoxybenzamide in 135 parts of N,N-dimethylformamide was added dropwise at a temperature between 17°-20° C. Upon completion, stirring was continued first overnight at room temperature and then for 3 hours at 50° C. Another portion of 5.64 parts of cis-4-amino-5-chloro-N-[1-(2-chloroethyl)-3-methoxy-4-piperidinyl]-2-methoxybenzamide was added and the mixture was stirred for 1 hour at 50° C. After the addition of crushed ice, the reaction mixture was concentrated. The aqueous phase was extracted with trichloromethane. The combined organic layers were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was solidified on scratching in 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.38 parts (20%) of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[2-(3-pyridinyloxy)ethyl]-4-piperidinyl]benzamide monohydrate; mp. 90.2° C. (compound 47).

reactant | 3-pyridinol | N1=CC(=CC=C1)O | C5H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | cis-4-amino-5-chloro-N-[1-(2-chloro-ethyl)-3-methoxy-4-piperidinyl]-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCl)OC)C=C1Cl)OC | C16H23Cl2N3O3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[2-(3-pyridinyloxy)ethyl]-4-piperidinyl]benzamide monohydrate | 20% | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCOC=2C=NC=CC2)OC)C=C1Cl)OC | InChI=1S/C21H27ClN4O4.H2O/c1-28-19-11-17(23)16(22)10-15(19)21(27)25-18-5-7-26(13-20(18)29-2)8-9-30-14-4-3-6-24-12-14;/h3-4,6,10-12,18,20H,5,7-9,13,23H2,1-2H3,(H,25,27);1H2/t18-,20+;/m0./s1
